US04612317
Methyl (1RS, 3SR)-trans-1-propyl-3-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate:
In the same manner as described in Example 39 by using (1RS, 3SR)-trans-1-propyl-3-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline (1.18 g), triethylamine (0.98 g), CS2 (0.74 g), methyl iodide (1.37 g) and dimethylsulfoxide (23 ml), there is prepared the title compound (720 mg, 44%) as white powder, NMR (CDCl3, δ): 2.70 (s, 3H, CSSCH3); Mass m/e: 334 (M+), 286 (M+ --CH3SH).

reactant | (1RS, 3SR)-trans-1-propyl-3-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline | 1.18 g | C(CC)[C@@H]1N[C@H](CC=2C3=CC=CC=C3NC12)CO | C15H20N2O
reactant | triethylamine | 0.98 g | C(C)N(CC)CC | C6H15N
reactant | CS2 | 0.74 g | C(=S)=S | CS2
reactant | methyl iodide | 1.37 g | CI | CH3I
solvent | dimethylsulfoxide | 23 ml | CS(=O)C | C2H6OS
product | Methyl (1RS, 3SR)-trans-1-propyl-3-hydroxymethyl-1,2,3,4-tetrahydro-β-carboline-2-carbodithioate | 720 mg, 44% | C(CC)[C@@H]1N([C@H](CC=2C3=CC=CC=C3NC12)CO)C(=S)SC | C17H22N2OS2
